US05391537
Preparation of methyl 3-benzyloxy-6-(N,N-dimethylamino)picolinate
15 g (58 mmol) of methyl 3-benzyloxypicolinate-N-oxide, 6.7 g (67 mmol) of trimethylsilylnitrile and 8.3 g (61 mmol) of N,N-dimethylcarbamoyl chloride were added to 100 ml of dichloromethane, and the mixture was allowed to stand at room temperature while stirring. The organic layer obtained was washed with water, dried and concentrated, and the residue thus obtained was purified by column chromatography to obtain an aimed compound.

reactant | methyl 3-benzyloxypicolinate-N-oxide | 58 mmol, 15 g | C(C1=CC=CC=C1)OC1=C([N+](=CC=C1)[O-])C(=O)OC | C14H13NO4
reactant | N,N-dimethylcarbamoyl chloride | 61 mmol, 8.3 g | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | methyl 3-benzyloxy-6-(N,N-dimethylamino)picolinate | C(C1=CC=CC=C1)OC=1C(=NC(=CC1)N(C)C)C(=O)OC | C16H18N2O3
